US04596806
A mixture consisting of 2.4 ml of trifluoroacetic acid and 10 ml of tetrahydrofuran was added dropwise to a suspension of 1.2 g of sodium borohydride in 6 ml of tetrahydrofuran under ice-cooling. To the resulting mixture was added a solution of 1.48 g of 2-nitro-5-piperidinobenzonitrile which was prepared in Reference Example 1-(a) in 15 ml of tetrahydrofuran, followed by stirring overnight. 20 ml of a 10% hydrochloric acid aqueous solution was added dropwise to the reaction mixture under ice-cooling, and the resulting mixture was heat-refluxed for 1 hour. The tetrahydrofuran was removed from the reaction mixture by distillation under reduced pressure. The aqueous layer was washed with chloroform, neutralized with sodium hydrogencarbonate and extracted with chloroform. The extracted layer was washed with water, dried and concentrated to dryness under reduced pressure. Purification of the residue by silica gel chromatography gave 1.28 g of 2-nitro-5-piperidinobenzylamine as an oily substance.

reactant | trifluoroacetic acid | 2.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
reactant | 2-nitro-5-piperidinobenzonitrile | 1.48 g | [N+](=O)([O-])C1=C(C#N)C=C(C=C1)N1CCCCC1 | C12H13N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-nitro-5-piperidinobenzylamine | 1.28 g | [N+](=O)([O-])C1=C(CN)C=C(C=C1)N1CCCCC1 | C12H17N3O2
